US04627933
A mixture of 1 g of hexanal, 2.5 g of 2-(4-p-propylphenylbutyl)-propane-1,3-diol (obtainable by reacting diethyl malonate with 4-p-propylphenylbutyl bromide to give diethyl 2-(4-p-propylphenylbutyl)-malonate and reducing the latter with LiAlH4), 0.01 g of p-toluenesulfonic acid and 15 ml of toluene is boiled for 3 hours under a water separator and is cooled, washed with water and evaporated. This gives 2-pentyl-5-(4-p-propylphenylbutyl-1,3-dioxane.

reactant | hexanal | 1 g | C(CCCCC)=O | C6H12O
reactant | 2-(4-p-propylphenylbutyl)-propane-1,3-diol | 2.5 g | C(CC)C1=CC=C(C=C1)CCCCC(CO)CO | C16H26O2
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-p-propylphenylbutyl bromide | C(CC)C1=CC=C(C=C1)CCCCBr | C13H19Br
product | diethyl 2-(4-p-propylphenylbutyl)-malonate | C(CC)C1=CC=C(C=C1)CCCCC(C(=O)OCC)C(=O)OCC | C20H30O4
